US08022062B2
Use a method similar to the General Procedure 5-1 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (250 mg, 0.6 mmol) with (±)-1-(2-fluorophenyl)-ethylamine (206 mg, 1.5 mmol) in toluene (5 mL). Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (9:1 to 1:1) followed by SCX chromatography [pre-wash column with methanol followed by DCM, load material dissolved in DCM, then elute with DCM/2M ammonia in methanol (1:1) and concentrate in vacuo] to obtain (±)-7-chloro-6-[1-(2-fluorophenyl)ethylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (86 mg, 35%). GC-MS m/z: 414 (M+).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.6 mmol, 250 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (±)-1-(2-fluorophenyl)-ethylamine | 1.5 mmol, 206 mg | FC1=C(C=CC=C1)C(C)N | C8H10FN
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (±)-7-chloro-6-[1-(2-fluorophenyl)ethylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 86 mg, 35% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NC(C)C1=C(C=CC=C1)F | C20H19ClF4N2O
